Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old woman with a history of poorly 
controlled T2DM, HTN, and HLD, prescribed antibiotics 3 days PTA 
for presumed CAP, presenting with DOE and headache, found to 
have EKG changes and interstitial lung changes with negative 
troponins.

Three days PTA, she presented to her PCP's office for pounding 
headaches, DOE, sore throat, and cough productive of yellow 
sputum with scant blood that had been ongoing for four weeks. 
Over the past month, she feels that she has become SOB with 
exertion, like doing laundry, which is new for her. During this 
time, she has also felt intermittently "hot and cold" and 
lightheaded. Theraflu and Nyquil provided minimal relief for the 
cough, and Aleve helped to reduce her headache somewhat. She 
does note chest tightness associated with coughing, but no chest 
pain otherwise. In the office, her BPs ranged from 
___ so she was referred to the ___ ED for 
hypertensive urgency. In the ED, her BPs improved on lisinopril 
and amlodipine, and troponins were negative x2. However, she was 
found to have a retrocardiac opacity on CXR c/f CAP, chronic 
interstitial lung changes on CT chest, and TWI in II, III, and 
aVL on repeat EKG. She left AMA from the ED prior to further 
evaluation by cardiology. She was given a script for 
azithromycin for CAP as well as scripts for her home 
medications, which she has not been taking for the past ___ 
months due to financial stressors.

On the day PTA, a nurse from her PCP's office called her 
regarding her ED visit and EKG changes, and the patient decided 
to return to the ED the next day for further workup.

In the ED, initial vitals were T 97, HR 103, BP 145/100, RR 20, 
O2Sat 98%RA. She appeared well, but was noted to have poor air 
movement diffusely. Labs included a normal CBC, chem-7, and 
troponin <0.01 x1. ED team spoke with PCP who requested 
admission for further cardiac and pulmonary workup.
 
On the floor, she is sitting on her bed comfortably in no 
distress. She does endorse a history of orthopnea and PND which 
may have been worsening recently. Additionally, she has had 
diarrhea since restarting her home medications yesterday.

Review of systems:  
(+) Per HPI  
(-)  Denies nausea, vomiting, constipation, or abdominal pain. 
No dysuria or hematuria. No numbness or tingling. Otherwise 
negative in 10-point review.
 
Past Medical History:
- T2DM
- Hypertension
- Hyperlipidemia
- Depression (suicide attempt at ___ years old)
- Morbid obesity
 
Social History:
___
Family History:
Mother with HTN, DM, s/p kidney transplant, CAD, CVA. 
Grandfather and aunt with MI.
 
Physical Exam:
Admission Physical Exam:
========================
VS: 98.3  ___  100%RA
Gen: NAD, sitting comfortably on her bed, well-appearing
HEENT: NCAT. PERRL ___, EOMI, anicteric sclerae. No pharyngeal 
exudate or erythema
CV: RRR, no murmurs/rubs/gallops
Pulm: CTAB, no crackles or wheezes
Abd: obese, soft, non-tender, non-distended, normoactive bowel 
sounds
Ext: WWP, posterior tibial pulses palpable and symmetric
Neuro: A/Ox3. Interacts appropriately and follows commands. No 
focal deficits  

Discharge Physical Exam:
========================
VS: 98.7  182/94  72  18  94%RA
Gen: NAD, sitting in chair comfortably, well-appearing
HEENT: PERRL ___, EOMI, anicteric sclerae. No pharyngeal 
exudate or erythema, oropharynx clear
CV: RRR, no murmurs/rubs/gallops
Pulm: CTAB, no crackles or wheezes
Abd: obese, soft, non-tender, non-distended, normoactive bowel 
sounds
Ext: WWP, no peripheral edema
Neuro: A&Ox3. No focal deficits
 
Pertinent Results:
Admission Labs:
===============
___ 10:49AM BLOOD WBC-8.2 RBC-5.26* Hgb-15.6 Hct-47.4* 
MCV-90 MCH-29.7 MCHC-32.9 RDW-14.1 RDWSD-46.4* Plt ___
___ 10:49AM BLOOD Neuts-55.5 ___ Monos-5.9 Eos-2.3 
Baso-0.4 Im ___ AbsNeut-4.55 AbsLymp-2.93 AbsMono-0.48 
AbsEos-0.19 AbsBaso-0.03
___ 10:49AM BLOOD Glucose-215* UreaN-12 Creat-0.8 Na-140 
K-5.2* Cl-102 HCO3-24 AnGap-19
___ 10:49AM BLOOD proBNP-19
___ 10:49AM BLOOD cTropnT-<0.01
___ 10:49AM BLOOD Cholest-207*
___ 10:49AM BLOOD Triglyc-304* HDL-32 CHOL/HD-6.5 
LDLcalc-114
___ 10:49AM BLOOD %HbA1c-13.6* eAG-344*

Discharge Labs:
===============
___ 06:49AM BLOOD WBC-5.4 RBC-5.15 Hgb-15.2 Hct-46.3* 
MCV-90 MCH-29.5 MCHC-32.8 RDW-14.0 RDWSD-45.9 Plt ___
___ 06:49AM BLOOD Glucose-233* UreaN-10 Creat-0.6 Na-140 
K-3.8 Cl-104 HCO3-24 AnGap-16
___ 06:49AM BLOOD Calcium-9.4 Phos-4.2 Mg-1.6

Studies:
========
ETT ___:
The patient exercised for 6 minutes of a Modified ___ protocol 
and was stopped at the patient's request for fatigue. The 
estimated peak MET capacity was 4.6, which represents a poor 
exercise tolerance for her age. There were no reports of chest, 
back, neck, or arm discomforts during the study. Progressive 
dyspnea was noted during exercise which improved quickly 
post-exercise. There were no significant ST changes noted during 
exercise or recovery. Rhythm was sinus with no ectopy. There was 
a blunted heart rate response to exercise in the absence of beta 
blockade. Marked resting systolic and diastolic hypertension 
with a mildly exaggerated systolic blood pressure response to 
exercise.
 
Brief Hospital Course:
___ w/ h/o T2DM, HTN, and HLD p/w 1 month hx of DOE and headache 
i/s/o lack of access to home medications, found to have stable 
CXR with interstitial lung changes on CT and no fever or 
leukocytosis, making a viral infection, perhaps in compromised 
lung parenchyma, the most likely cause for her SOB with 
productive cough, and her headaches are most likely attributable 
to her previously uncontrolled BPs.

# Dyspnea / Shortness of breath:
1 month course with productive cough, sore throat, and 
intermittently feeling hot and cold. CXR demonstrates 
retrocardiac opacity, which was visualized on prior film from ___ 
years ago. CT chest demonstrates lymphadenopathy with diffuse 
interstitial process but no focal consolidation. Overall, this 
is reassuring against a possible PNA, but raises the concern for 
a subacute viral illness overlying a chronic process, such as 
interstitial lung disease related to smoking or possibly 
sarcoidosis. New onset CHF was also considered, given her 
history of orthopnea and PND, but this is very unlikely as the 
pt did not appear volume overloaded on exam or CXR, and her 
proBNP was not elevated (19). No tachycardia or chest pain to 
suggest possible PE. ETT showed poor functional capacity (4.6 
METS) limited by dyspnea but no angina symptoms or ST changes, 
which suggests that the patient's dyspnea is from a primary 
pulmonary source and not a cardiac etiology.

# Non-specific T-wave changes:
Very minimal TWIs on EKG from ___, which resolved spontaneously 
and without intervention. No associated chest pain, and negative 
troponins on ___ and negative troponins x2 during this 
admission. Likely non-specific and not ___ ischemia or 
infarction, but obtained exercise stress test to rule out 
ischemia given poorly controlled DM and risk for atypical 
ischemic symptoms. ETT ___ similar to prior stress test in 
___: poor functional capacity ___ METS) limited by dyspnea but 
no angina symptoms or ST changes. Discharged on ASA 81mg daily 
given multiple cardiac risk factors.

# HTN: No access to BP meds for past ___ months due to financial 
constraints, found to have SBP in 200s 3 days PTA, which was 
treated with reinitiation of home amlodipine and lisinopril. BPs 
150-182/78-108 on home regimen while inpatient, so lisinopril 
increased to 40mg daily. Will need PCP follow up to further 
adjust antihypertensive regimen.

# Headaches: Likely ___ hypertensive urgency as pt has been 
without antihypertensive meds for ___ months with SBPs in 200s. 
No history of migraines. 1-month course and lack of neurological 
deficits reassuring against acute process. No indication for 
head imaging while in house. During this admission, pt developed 
her first headache when her SBP rose to 180, suggesting that her 
headaches may be related to her BP control. Antihypertensive 
regimen was adjusted as above.

# HLD: Lipid panel ___ notable for triglycerides 304 (down 
from 885 in ___, TC 207, HDL 32, and LDLcalc 114. Her 
___ ___ risk of general cardiovascular disease in women 
is 64%. Therefore, pt was switched from simvastatin to 
high-intensity statin therapy (rosuvastatin 20 mg).

# T2DM: HbA1c ___ 13.6 (up from 13.0 in ___ i/s/o no 
metformin or glyburide for past 4 months. Metformin and 
glyburide were restarted on discharge. Recommend following up as 
outpt.

Transitional Issues:
[] Consider repeating CT chest in ___ to f/u interstitial 
changes.
[] OP Pulmonary f/u to workup interstitial changes and 
lymphadenopathy (possible sarcoidosis) and evaluate for OSA 
given obesity and refractory hypertension.
[] PCP follow up for hypertension and diabetes management.
[] Consider OP pMIBI given poor functional capacity on ETT.
[] Increased lisinopril to 40mg daily; continued amlodipine 10mg 
daily. Please follow up blood pressure control and consider 
adding a third agent (e.g. carvedilol) for BP goal <140/90.
[] Changed simvastatin to atorvastatin 40mg daily.
[] Added ASA 81mg daily given multiple cardiac risk factors.
[] Hgb A1c 13.6 i/s/o not taking metformin and glyburide for 
several months. Consider starting insulin.
[] Case Management looking into additional resources for sources 
of funding to help patient with purchasing medications. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. GlyBURIDE 5 mg PO BID 
3. Lisinopril 20 mg PO DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Simvastatin 20 mg PO QHS 
6. Azithromycin 250 mg PO Q24H 

 
Discharge Medications:
1. Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet by mouth daily Disp #*30 Tablet 
Refills:*0
2. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet by mouth daily Disp #*30 Tablet 
Refills:*0
3. Acetaminophen 650 mg PO Q6H:PRN pain,fever 
RX *acetaminophen 325 mg ___ tablet(s) by mouth every six hours 
Disp #*30 Tablet Refills:*0
4. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet by mouth daily Disp #*30 Tablet 
Refills:*0
5. GlyBURIDE 5 mg PO BID 
RX *glyburide 5 mg 1 tablet by mouth twice daily Disp #*60 
Tablet Refills:*0
6. MetFORMIN (Glucophage) 1000 mg PO BID 
RX *metformin 1,000 mg 1 tablet by mouth twice daily Disp #*60 
Tablet Refills:*0
7. Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet by mouth every evening Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
Hypertensive Urgency
Uncontrolled Hypertension
Uncontrolled Type 2 Diabetes Mellitus

Secondary:
Hyperlipidemia
Interstitial changes of unknown etiology

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital because you were experiencing 
shortness of breath during activity along with a headache and 
changes on your EKG. During your hospitalization, we reviewed 
images of your heart and lungs which did not show any evidence 
of pneumonia, so we stopped your antibiotics. These images did 
show some changes in your lungs that you will need to follow up 
on with another CT scan in 3 months. We also had you complete an 
exercise stress test, which was similar to your prior stress 
test in ___ and did not show any problems with the blood flow 
to your heart. Because of these tests, we think that your 
breathing symptoms may be related to underlying lung changes, 
which should be further evaluated by a pulmonologist (lung 
doctor). 

We also restarted you on your medications for your high blood 
pressure and high cholesterol. Your blood pressure was very high 
when you first came into the emergency department, and we think 
that your headache is related to your high blood pressure. It 
will be important for you to continue taking your medications 
for your blood pressure, diabetes, and cholesterol in the future 
to prevent additional problems (such as renal failure, heart 
attack, and stroke) from developing.

It was a pleasure taking care of you!

Sincerely,
Your ___ Team
 
Followup Instructions:
___